US09290530B2
Synthesis of methyl 2,3,4-tri-O-acetyl-D-glucopyranuronate F13-3.
Methyl 1,2,3,4-tetra-O-acetyl-D-glucopyranuronate F13-2 (1.2 g, 3.2 mmol) was dissolved in dry DMF (10 mL) under N2. To the solution, benzylamine (0.42 mL, 3.8 mmol) was added. The mixture was stirred at r.t. for 16 hours. The solvent was removed under reduced pressure and the residue was purified by flash chromatography (Hexane:EtOAc=1:2, by volume) to afford a white solid F13c in 84% yield. 1H NMR (600 MHz, CDCl3) δ 5.50-5.55 (m, 1H), 5.11-5.27 (m, 1H), 4.85-4.91 (m, 1H), 5.39-4.56 (m, 2H), 3.70-3.72 (m, 3H), 1.99-2.05 (m, 9H). 13C NMR (150 MHz, CDCl3) δ 170.68, 170.45, 170.34, 170.30, 169.94, 169.81, 168.77, 167.83, 95.59, 90.36, 72.98, 72.66, 71.81, 70.97, 69.73, 69.61, 69.34, 68.12, 53.21, 53.11, 20.85, 20.84, 20.77, 20.70, 20.66, 20.65.

reactant | Methyl 1,2,3,4-tetra-O-acetyl-D-glucopyranuronate | 3.2 mmol, 1.2 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C(=O)OC | C15H20O11
reactant | benzylamine | 3.8 mmol, 0.42 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 2,3,4-tri-O-acetyl-D-glucopyranuronate | 84% yield | C(C)(=O)O[C@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)C(=O)OC | C13H18O10
